************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: SENSE_AMP
* View Name:     schematic
* Netlisted on:  May 28 19:02:59 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    SENSE_AMP
* View Name:    schematic
************************************************************************

.SUBCKT SENSE_AMP BL BLbar data_out gnd read_en vdd
*.PININFO read_en:I data_out:O BL:B BLbar:B gnd:B vdd:B
MM2 net12 read_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM1 net16 data_out net12 gnd NMOS_VTG W=90n L=50n m=1
MM0 net12 net16 data_out gnd NMOS_VTG W=90n L=50n m=1
MM6 BL read_en data_out vdd PMOS_VTG W=90n L=50n m=1
MM5 net16 read_en BLbar vdd PMOS_VTG W=90n L=50n m=1
MM4 net16 data_out vdd vdd PMOS_VTG W=90n L=50n m=1
MM3 vdd net16 data_out vdd PMOS_VTG W=90n L=50n m=1
.ENDS

