************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: Write_Circuitry
* View Name:     schematic
* Netlisted on:  May 28 19:01:59 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    Write_Circuitry
* View Name:    schematic
************************************************************************

.SUBCKT Write_Circuitry BL BLbar data_in gnd vdd wr_en
*.PININFO data_in:I wr_en:I BL:O BLbar:O gnd:B vdd:B
MM11 net074 wr_en vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM5 net069 wr_en vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM2 net070 net069 BL vdd PMOS_VTG W=270.0n L=50n m=1
MM3 BLbar net074 net061 vdd PMOS_VTG W=270.0n L=50n m=1
MM6 net070 net061 vdd vdd PMOS_VTG W=270.0n L=50n m=1
MM8 net061 data_in vdd vdd PMOS_VTG W=270.0n L=50n m=1
MM10 net074 wr_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM4 net069 wr_en gnd gnd NMOS_VTG W=90n L=50n m=1
MM1 BLbar wr_en net061 gnd NMOS_VTG W=180.0n L=50n m=1
MM0 net070 wr_en BL gnd NMOS_VTG W=180.0n L=50n m=1
MM7 net070 net061 gnd gnd NMOS_VTG W=180.0n L=50n m=1
MM9 net061 data_in gnd gnd NMOS_VTG W=180.0n L=50n m=1
.ENDS

