************************************************************************
* auCdl Netlist:
* 
* Library Name:  sram_haolan
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  May 15 15:57:25 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: sram_haolan
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter IN OUT gnd vdd
*.PININFO IN:I OUT:O gnd:B vdd:B
MM0 OUT IN vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM1 OUT IN gnd gnd NMOS_VTG W=90n L=50n m=1
.ENDS

