************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: inverter_2
* View Name:     schematic
* Netlisted on:  May 18 13:26:51 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    inverter_2
* View Name:    schematic
************************************************************************

.SUBCKT inverter_2 IN OUT gnd vdd
*.PININFO IN:I OUT:O gnd:B vdd:B
MM0 OUT IN vdd vdd PMOS_VTG W=135.00n L=50n m=1
MM1 OUT IN gnd gnd NMOS_VTG W=90n L=50n m=1
.ENDS

